* I0-4M -- ideal SCB hierarchy test, zero capacitor initial voltage
* Paper topology/timing only: no precharge, no fixed 36/24/12 V sources, no parasitics.
.param VIN=48 VOUT=1 POUT=250 NP=4 NM=1 FSW=5Meg T={1/FSW}
.param D={NP*VOUT/VIN} TON={D*T} RLOAD={VOUT*VOUT/POUT}
.param LPHASE=1.55n CFLY=27.34375u COUT=470u
.param RON=1u ROFF=1T RLDAMP=1m VGATE=5 TENABLE=5u
.param VREF=1 D0={NP*VREF/VIN} KP=0.025 KI=1500 DMIN=0.04 DMAX=0.12

VRAIL vin 0 PWL(0 0 5u 48 60u 48)
BCTRL dctrl 0 V=limit(D0+KP*(VREF-V(out))+KI*idt(VREF-V(out)),DMIN,DMAX)
XMOD1 vin out 0 dctrl SCB4P PARAMS: MOFF={(0)*T/(4*NM)}
CCO out 0 {COUT}
RLOAD_MAIN out 0 {RLOAD}

.meas tran DCTRL_AVG AVG V(dctrl) FROM 40u TO 50u
.meas tran VOUT_AVG AVG V(out) FROM 40u TO 50u
.meas tran VOUT_PP PP V(out) FROM 40u TO 50u
.meas tran VC1_AVG AVG V(xmod1:a1,xmod1:sw1) FROM 40u TO 50u
.meas tran VC2_AVG AVG V(xmod1:a2,xmod1:sw2) FROM 40u TO 50u
.meas tran VC3_AVG AVG V(xmod1:a3,xmod1:sw3) FROM 40u TO 50u
.meas tran VC1_PP PP V(xmod1:a1,xmod1:sw1) FROM 40u TO 50u
.meas tran VC2_PP PP V(xmod1:a2,xmod1:sw2) FROM 40u TO 50u
.meas tran VC3_PP PP V(xmod1:a3,xmod1:sw3) FROM 40u TO 50u
.meas tran IL1_MAX MAX I(XMOD1:L1) FROM 40u TO 50u
.meas tran IL1_MIN MIN I(XMOD1:L1) FROM 40u TO 50u
.meas tran IL1_AVG AVG I(XMOD1:L1) FROM 40u TO 50u
.meas tran IL2_AVG AVG I(XMOD1:L2) FROM 40u TO 50u
.meas tran IL3_AVG AVG I(XMOD1:L3) FROM 40u TO 50u
.meas tran IL4_AVG AVG I(XMOD1:L4) FROM 40u TO 50u
.meas tran ICOUT_AVG AVG I(CCO) FROM 40u TO 50u
.meas tran ILOAD_AVG AVG I(RLOAD_MAIN) FROM 40u TO 50u
.meas tran VL1_AVG AVG V(xmod1:sw1,out) FROM 40u TO 50u
.meas tran VL2_AVG AVG V(xmod1:sw2,out) FROM 40u TO 50u
.meas tran VL3_AVG AVG V(xmod1:sw3,out) FROM 40u TO 50u
.meas tran VL4_AVG AVG V(xmod1:sw4,out) FROM 40u TO 50u
.meas tran IC1_AVG AVG I(XMOD1:CS1) FROM 40u TO 50u
.meas tran IC2_AVG AVG I(XMOD1:CS2) FROM 40u TO 50u
.meas tran IC3_AVG AVG I(XMOD1:CS3) FROM 40u TO 50u
.meas tran IIN_AVG AVG -I(VRAIL) FROM 40u TO 50u
.meas tran PIN_AVG AVG (-V(vin)*I(VRAIL)) FROM 40u TO 50u
.meas tran POUT_AVG AVG (V(out)*V(out)/RLOAD) FROM 40u TO 50u
.meas tran VOUT_40U FIND V(out) AT 40u
.meas tran VOUT_50U FIND V(out) AT 50u

.options plotwinsize=500 reltol=1e-4 gshunt=1e-12 abstol=1e-8 chgtol=1e-16
.save V(vin) V(out) V(dctrl) V(xmod1:sw4) V(xmod1:gh1) V(xmod1:zc1) V(xmod1:a1,xmod1:sw1) V(xmod1:a2,xmod1:sw2) V(xmod1:a3,xmod1:sw3) I(VRAIL) I(CCO) I(RLOAD_MAIN) I(XMOD1:CS1) I(XMOD1:CS2) I(XMOD1:CS3) I(XMOD1:L1) I(XMOD1:L2) I(XMOD1:L3) I(XMOD1:L4)
.tran 0 50u 0 .5n startup

.subckt SCB4P vin out g dctrl PARAMS: MOFF=0
RREG1 a1 g 1Meg
RREG2 a2 g 1Meg
RREG3 a3 g 1Meg
RREG4 sw1 g 1Meg
RREG5 sw2 g 1Meg
RREG6 sw3 g 1Meg
RREG7 sw4 g 1Meg
BH1 gh1 g V=if(time>TENABLE & mod(time-MOFF+T,T)<V(dctrl,g)*T,VGATE,0)
BZC1 zc1 g V=if(time<TENABLE,20,if(V(gh1,g)>2.5,-20,I(L1)))
BH2 gh2 g V=if(time>TENABLE & mod(time-MOFF+T-T/4,T)<V(dctrl,g)*T,VGATE,0)
BZC2 zc2 g V=if(time<TENABLE,20,if(V(gh2,g)>2.5,-20,I(L2)))
BH3 gh3 g V=if(time>TENABLE & mod(time-MOFF+T-T/2,T)<V(dctrl,g)*T,VGATE,0)
BZC3 zc3 g V=if(time<TENABLE,20,if(V(gh3,g)>2.5,-20,I(L3)))
BH4 gh4 g V=if(time>TENABLE & mod(time-MOFF+T-3*T/4,T)<V(dctrl,g)*T,VGATE,0)
BZC4 zc4 g V=if(time<TENABLE,20,if(V(gh4,g)>2.5,-20,I(L4)))

SH1 vin a1 gh1 g SWI
CS1 a1 sw1 {CFLY}
SL1 sw1 g zc1 g SWZC on
L1 sw1 out {LPHASE} Rser={RLDAMP}
SH2 a1 a2 gh2 g SWI
CS2 a2 sw2 {CFLY}
SL2 sw2 g zc2 g SWZC on
L2 sw2 out {LPHASE} Rser={RLDAMP}
SH3 a2 a3 gh3 g SWI
CS3 a3 sw3 {CFLY}
SL3 sw3 g zc3 g SWZC on
L3 sw3 out {LPHASE} Rser={RLDAMP}
SH4 a3 sw4 gh4 g SWI
SL4 sw4 g zc4 g SWZC on
L4 sw4 out {LPHASE} Rser={RLDAMP}

DH1 a1 vin DIDEAL
DL1 g sw1 DIDEAL
DH2 a2 a1 DIDEAL
DL2 g sw2 DIDEAL
DH3 a3 a2 DIDEAL
DL3 g sw3 DIDEAL
DH4 sw4 a3 DIDEAL
DL4 g sw4 DIDEAL
.model SWI SW(Ron={RON} Roff={ROFF} Vt=2.5 Vh=0)
.model SWZC SW(Ron={RON} Roff={ROFF} Vt=4 Vh=6)
.model DIDEAL D(Ron={RON} Roff={ROFF} Vfwd=0)
.ends SCB4P
.end
